US06441012B1
d) Preparation of Methyl 4-(N-Methylaminophenoxy)butyrate
A solution of methyl 4-(3-t-butoxycarbonyl-[-methyl]aminophenoxy)butyrate(0.2 g) in a mixture of dichloromethane(1 mL) and trifluoroacetic acid(1 mL) was kept at ambient temperature for 1 h and evaporated to dryness. The residue was treated with water and ethyl acetate and the mixture was stirred while making basic with potassium carbonate. The organic phase was separated, dried and evaporated to dryness to give the product (0.14 g), [m/e224, MH+].

reactant | methyl 4-(3-t-butoxycarbonyl-[-methyl]aminophenoxy)butyrate | 0.2 g | C(C)(C)(C)OC(=O)C=1C(=C(OCCCC(=O)OC)C=CC1)NC | C17H25NO5
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 4-(N-Methylaminophenoxy)butyrate | 0.14 g | CNC1=C(OCCCC(=O)OC)C=CC=C1 | C12H17NO3
